US04361512
Disodium 2-carboxymethylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate
A solution of crude p-nitrobenzyl 2-(p-nitrobenzyloxycarbonyl)methylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate (8.7 mg) in dioxane (1.20 ml) is diluted with ethanol (0.10 ml) and water (0.70 ml) containing sodium bicarbonate (2.3 mg). The resulting solution is treated with 10% palladium on charcoal (15 mg) and hydrogenated at 40 psi for 60 minutes. The mixture is diluted with water to 5 ml and centrifuged to remove the catalyst which is washed with more water (2×1 ml). The combined aqueous solution is washed with ethyl acetate (4×3 ml), filtered through a cotton plug, concentrated in vacuo to ca. 1 ml, and lyophilized to provide the title compound as a solid: UV (pH 7 phosphate buffer) 301 nm; electrophoresis (0.05 M pH 7 phosphate buffer 2 KV, 20 ma, 20 mins) gives a biactive zone migrating 9.3 cm toward the anode (dicarboxylate).

reactant | p-nitrobenzyl 2-(p-nitrobenzyloxycarbonyl)methylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate | 8.7 mg | [N+](=O)([O-])C1=CC=C(COC(=O)CSC=2C[C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(C3C(C)O)=O)C=C1 | C25H23N3O10S
reactant | sodium bicarbonate | 2.3 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 1.20 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 0.10 ml | C(C)O | C2H6O
solvent | water | 0.70 ml | O | H2O
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
product | Disodium 2-carboxymethylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate | C(=O)(O)CSC=1C[C@H]2N(C1C(=O)[O-])C(C2C(C)O)=O.[Na+].[Na+].C(=O)(O)CSC=2C[C@H]1N(C2C(=O)[O-])C(C1C(C)O)=O | InChI=1S/2C11H13NO6S.2Na/c2*1-4(13)8-5-2-6(19-3-7(14)15)9(11(17)18)12(5)10(8)16;;/h2*4-5,8,13H,2-3H2,1H3,(H,14,15)(H,17,18);;/q;;2*+1/p-2/t2*4?,5-,8?;;/m11../s1
